US04593102
N-[3-(Diethylamino)propyl]-3-(phenylsulfonyl)-1-pyrrolidinecarboxamide Monohydrate
A solution of 4.95 g (0.38 mole) of 3-diethylaminopropylamine and 6.50 g (0.040 mole) of 1,1'-carbonyldiimidazole in 400 ml of tetrahydrofuran was stirred at room temperature for 1 hr. A solution of 7.08 g (0.0336 mole) of 3-(phenylsulfonyl)pyrrolidine (free base) in 100 ml of tetrahydrofuran was added and the mixture was refluxed overnight. The tetrahydrofuran was removed in vacuo and the residue was partitioned between methylene chloride and water. The methylene chloride phase was dried over magnesium sulfate and the solvent was removed in vacuo to give the product as an oil.

reactant | 3-diethylaminopropylamine | 0.38 mole, 4.95 g | C(C)N(CCCN)CC | C7H18N2
reactant | 1,1'-carbonyldiimidazole | 0.040 mole, 6.50 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(phenylsulfonyl)pyrrolidine | 0.0336 mole, 7.08 g | C1(=CC=CC=C1)S(=O)(=O)C1CNCC1 | C10H13NO2S
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[3-(Diethylamino)propyl]-3-(phenylsulfonyl)-1-pyrrolidinecarboxamide Monohydrate | O.C(C)N(CCCNC(=O)N1CC(CC1)S(=O)(=O)C1=CC=CC=C1)CC | InChI=1S/C18H29N3O3S.H2O/c1-3-20(4-2)13-8-12-19-18(22)21-14-11-17(15-21)25(23,24)16-9-6-5-7-10-16;/h5-7,9-10,17H,3-4,8,11-15H2,1-2H3,(H,19,22);1H2
